US04146715
A mixture of 9-(3-benzoyloxypropoxymethyl)guanine (0.5 g) and aqueous 45% methylamine (10 ml) was stirred overnight at room temperature. Excess methylamine and water was evaporated at <30° C. under reduced pressure and the residue recrystallized from ethanol to give 9-(3-hydroxypropoxymethyl)guanine (0.24 g), m.p. 223° C. (with resolidification), as the .1/2 hydrate.

reactant | 9-(3-benzoyloxypropoxymethyl)guanine | 0.5 g | C(C1=CC=CC=C1)(=O)OCCCOCN1C=2N=C(NC(C2N=C1)=O)N | C16H17N5O4
solvent | methylamine | 10 ml | CN | CH5N
product | 9-(3-hydroxypropoxymethyl)guanine | 0.24 g | OCCCOCN1C=2N=C(NC(C2N=C1)=O)N | C9H13N5O3
